US08278482B2
S-2-(Methyl(2-methyl-2-nitropropyl)amino)ethyl ethanethioate
2-(Methyl(2-methyl-2-nitropropyl)amino)ethyl methanesulfonate (12.0 g, 47.2 mmol) was dissolved into anhydrous acetonitrile (200 mL) and solid potassium thioacetate (5.93 g, 1.1 equiv, 51.9 mmol) was added to flask in one portion. The suspension was heated at 50° C. for 4 h. The red slurry was filtered and the solid washed with ethyl acetate (3×150 mL). The filtrate was concentrated to a red brown oil and purified on an ISCO purification system using a 120 g SiO2 column and the following gradient: isocratic 20% EA in hexanes (5 min) and a gradient to 60% EA in hexanes (15 min). The desired fractions were collected and concentrated to give a red oil (6.83 g, 61.8%). 1H NMR (CDCl3, 400 MHz): δ 1.56 (s, 6H), 2.32 (s, 3H), 2.33 (s, 3H), 2.61-2.65 (m, 2H), 2.89-2.93 (m, 4H). LRMS (ESI+) for C9H18N2O3S (234.1); Found: 235 (MH+).

reactant | 2-(Methyl(2-methyl-2-nitropropyl)amino)ethyl methanesulfonate | 47.2 mmol, 12.0 g | CS(=O)(=O)OCCN(CC(C)([N+](=O)[O-])C)C | C8H18N2O5S
reactant | potassium thioacetate | 51.9 mmol, 5.93 g, 1.1 equiv | C(C)(=S)[O-].[K+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | S-2-(Methyl(2-methyl-2-nitropropyl)amino)ethyl ethanethioate | 6.83 g, 61.8% | C(C)(SCCN(CC(C)([N+](=O)[O-])C)C)=O | C9H18N2O3S
